US06130238
5-(4-Carboxybenzamido)-2-oxindole
5-(4-Methoxycarbonylbenzamido)-2-oxindole (0.9 g) and 0.4 g of sodium hydroxide in 25 mL of methanol were refluxed for 3 hours. The mixture was concentrated, water added, and the mixture acidified with 6N hydrochloric acid. The precipitate was collected by vacuum filtration to give 0.75 g (87%) of the title compound as a white solid.

reactant | 5-(4-Methoxycarbonylbenzamido)-2-oxindole | 0.9 g | COC(=O)C1=CC=C(C(=O)NC=2C=C3CC(NC3=CC2)=O)C=C1 | C17H14N2O4
reactant | sodium hydroxide | 0.4 g | [OH-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
product | 5-(4-Carboxybenzamido)-2-oxindole | 0.75 g, 87% | C(=O)(O)C1=CC=C(C(=O)NC=2C=C3CC(NC3=CC2)=O)C=C1 | C16H12N2O4
